US08859571B2
To a solution of 4-fluoro-3-nitrobenzenesulfonyl chloride (43 g, 179.5 mmol) in THF (500 mL), was added triethylamine (150 mL, 1.08 mol). The mixture was cooled to −35° C. and methylamine hydrochloride (14.5 g, 215.4 mmol) in water was added dropwise. After 1 h, the mixture was warmed to room temperature and diluted with 1:1 water/ethyl acetate. The organic layer was separated and washed with saturated aqueous sodium bicarbonate, then brine, dried over MgSO4, filtered and concentrated in vacuo. The crude residue was purified via column chromatography (20% ethyl acetate/petroleum ether) to give 4-fluoro-N-methyl-3-nitrobenzenesulfonamide (38 g, 90% yield) as a yellow solid.

reactant | 4-fluoro-3-nitrobenzenesulfonyl chloride | 179.5 mmol, 43 g | FC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3ClFNO4S
reactant | triethylamine | 1.08 mol, 150 mL | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 215.4 mmol, 14.5 g | Cl.CN
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | water ethyl acetate | O.C(C)(=O)OCC
product | 4-fluoro-N-methyl-3-nitrobenzenesulfonamide | 38 g, 90% yield | FC1=C(C=C(C=C1)S(=O)(=O)NC)[N+](=O)[O-] | C7H7FN2O4S
